US06174874B1
Step 1 Dimethyl 2-(4-bromobenzyl)malonate
A solution of dimethyl malonate (13.2 g), 4-bromobenzylbromide (5.4 g) in DMF (200 mL) was treated with NaH (4 g, 60% in mineral oil). The mixture was stirred for 5 min at 0° C. and 20 min at room temperature and then quenched with 10 mL of AcOH slowly. The mixture was concentrated under vacuum and the residue was dissolved in 200 mL of 1:1 EtOAc/hexane, and filtered through a pad of silica gel. The filtrate was concentrated and the excess dimethyl malonate was removed under vacuum at 70° C. to provide the title compound as a yellow oil.

reactant | dimethyl malonate | 13.2 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 4-bromobenzylbromide | 5.4 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | NaH | 4 g | [H-].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Dimethyl 2-(4-bromobenzyl)malonate | BrC1=CC=C(CC(C(=O)OC)C(=O)OC)C=C1 | C12H13BrO4
